US07491735B2
Using general procedure A with 4-(trifluoromethoxy)-aniline (0.21 mL, 1.55 mmol) and (R)-3-(4-oxo-piperidin-1-yl]-butyronitrile (310 mg, 1.87 mmol) followed by general procedure J afforded [1-((R)-3-amino-1-methyl-propyl)-piperidin-4-yl]-(4-trifluoromethoxy-phenyl)-amine as a white solid (277 mg, 55% over 2 steps).

reactant | 4-(trifluoromethoxy)-aniline | 1.55 mmol, 0.21 mL | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
reactant | (R)-3-(4-oxo-piperidin-1-yl]-butyronitrile | 1.87 mmol, 310 mg | O=C1CCN(CC1)[C@@H](CC#N)C | C9H14N2O
product | [1-((R)-3-amino-1-methyl-propyl)-piperidin-4-yl]-(4-trifluoromethoxy-phenyl)-amine | NCC[C@@H](C)N1CCC(CC1)NC1=CC=C(C=C1)OC(F)(F)F | C16H24F3N3O
